US04935425
To a solution of 3.00 g of 3-cyano-1-ethoxycarbonyl-2-(2-pyridylmethylamino)-4H-quinolizin-4-one in 1000 ml of abs. methanol was added 40 mg of sodium hydride and the reaction mixture was heated under reflux for 3 hours. After cooling, the precipitated crystals were collected by filtration to give 2.56 g of 3-cyano-1-methoxycarbonyl-2-(2-pyridylmethylamino)-4H-quinolizin-4-one.

reactant | 3-cyano-1-ethoxycarbonyl-2-(2-pyridylmethylamino)-4H-quinolizin-4-one | 3.00 g | C(#N)C1=C(C(=C2C=CC=CN2C1=O)C(=O)OCC)NCC1=NC=CC=C1 | C19H16N4O3
reactant | sodium hydride | 40 mg | [H-].[Na+]
solvent | methanol | CO | CH4O
product | 3-cyano-1-methoxycarbonyl-2-(2-pyridylmethylamino)-4H-quinolizin-4-one | 2.56 g | C(#N)C1=C(C(=C2C=CC=CN2C1=O)C(=O)OC)NCC1=NC=CC=C1 | C18H14N4O3
